US08835472B2
1-(4-((4-Ethoxyphenyl)ethynyl)phenyl)propan-2-amine hydrochloride
To 3.30 g (8.70 mmol) tert-butyl 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)propan-2-yl-carbamate (I60) in 40 mL MeOH are added 20 mL (25 mmol) HCl (1.25M in MeOH). The mixture is stirred at 70° C. for 7 h. The solvent is removed in vacuo and the crude product is triturated with DIPE and dried in normal atmosphere.

reactant | tert-butyl 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)propan-2-yl-carbamate | 8.70 mmol, 3.30 g | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(OC(C)(C)C)=O | C24H29NO3
reactant | HCl | 25 mmol, 1.25M, 20 mL | Cl | ClH
solvent | MeOH | 40 mL | CO | CH4O
product | 1-(4-((4-Ethoxyphenyl)ethynyl)phenyl)propan-2-amine hydrochloride | Cl.C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)N | InChI=1S/C19H21NO.ClH/c1-3-21-19-12-10-17(11-13-19)5-4-16-6-8-18(9-7-16)14-15(2)20;/h6-13,15H,3,14,20H2,1-2H3;1H
